US08729078B2
HATU (104 mg, 0.27 mmol) and triethyl amine (1 mL) were added to a solution of 4-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrole-2-carboxylic acid (95 mg, 0.23 mmol) in dry THF (15 mL). Ammonia gas was bubbled through the solution for 5 h. The mixture was concentrated under reduced pressure. The residue was purified by preparative TLC (petroleum ether/ethyl acetate=2:1) to give 4-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrole-2-carboxylic acid amide (25 mg, yield 26%) as a white solid. 1H NMR (300 MHz, CD3OD) δ 8.43 (s, 1H), 8.28 (d, J=8.5 Hz, 1H), 7.98-7.92 (m, 2H), 7.52-7.39 (m, 2H), 7.26-7.19 (m, 2H), 7.03 (d, J=1.6 Hz, 1H), 4.38 (s, 2H), 1.38 (s, 9H). LC-MS calcd for C24H24N4O3 (m/e) 416.18, obsd 417 [M+1]+.

reactant | HATU | 0.27 mmol, 104 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethyl amine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | 4-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrole-2-carboxylic acid | 0.23 mmol, 95 mg | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)C=1C=C(NC1)C(=O)O)CO | C24H23N3O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-[3-(6-tert-butyl-1-oxo-1H-phthalazin-2-yl)-2-hydroxymethyl-phenyl]-1H-pyrrole-2-carboxylic acid amide | 25 mg, yield 26% | C(C)(C)(C)C=1C=C2C=NN(C(C2=CC1)=O)C=1C(=C(C=CC1)C=1C=C(NC1)C(=O)N)CO | C24H24N4O3
